US05382380
A reaction vessel was charged with 100 g of 4-pentylaniline and 600 ml of water, and 80 g of concentrated sulfuric acid was added dropwise with ice water cooling and stirring. A solution of 43 g of sodium nitrite in 80 ml of water was then added dropwise and the reaction was carried out at the same temperature for 2 hours with stirring whereby a diazonium salt solution was prepared. Another reaction vessel was charged with 38.5 g of cupric sulfate pentahydrate (CuSO4.5H2O ), 12.2g of copper powder, 70 g of sodium bromide and 600 ml of water. To the mixture were added at room temperature with stirring 18.5 g of concentrated sulfuric acid and then 4.5 g of sodium sulfite heptahydrate. The temperature of the resultant temperature was allowed to rise, and the previously prepared diazonium salt solution was added dropwise over a period of 1 hour under reflux with stirring, whereafter the mixture was subjected to reaction for a further period of 1 hour. The reaction liquid was cooled and then extracted with 1 l of hexane added. The resultant hexane solution was washed successively with water, aqueous caustic soda and water and then dried over Glauber's salt. The hexane was distilled off and the residue was distilled under reduced pressure to obtain 61.5 g (44%) of 4-pentylbromobenzene (b.p. 135°-142° C./ 15-17 mmHg).

reactant | 4-pentylaniline | 100 g | C(CCCC)C1=CC=C(N)C=C1 | C11H17N
reactant | sulfuric acid | 80 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 43 g | N(=O)[O-].[Na+]
reactant | sodium bromide | 70 g | [Br-].[Na+]
reactant | sulfuric acid | 18.5 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 80 ml | O | H2O
catalyst | copper | 12.2g | [Cu] | Cu
catalyst | sodium sulfite heptahydrate | 4.5 g | O.O.O.O.O.O.O.S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 600 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | 4-pentylbromobenzene | 61.5 g, 44% | C(CCCC)C1=CC=C(C=C1)Br | C11H15Br
